US07253187B2
4-(2-Cyclopropylamino-5-methyl-pyrimidin-4-yl)-1H-pyrrole-2-carboxylic acid (2-hydroxy-1-(S)-phenyl-ethyl)-amide (III-a-162):
4-(3-Dimethylamino-2-methyl-acryloyl)-1H-pyrrole-2-carboxylic acid (2-hydroxy-1-phenyl-ethyl)-amide (100 mg, 0.29 mmol) was combined with cyclopropyl guanidine•HCl (80 mg) and potassium carbonate (121 mg) in N,N-dimethylacetamide (2 mL). The resulting suspension was heated and stirred at 100° C. for 24 hours. The crude material was diluted with ethyl acetate, washed with saturated NaHCO3 and brine, dried over MgSO4 then concentrated in vacuo. Purification by preparative TLC (silica, 1:1 EtOAc:Hexanes) afforded III-a-162 as a yellow solid (7.8 mg). HPLC Method B, Rt=4.29 minutes; LC/MS(m/z) 378.2 (M+1), 376.2 (M−1); 1H NMR consistent with structure.

reactant | 4-(3-Dimethylamino-2-methyl-acryloyl)-1H-pyrrole-2-carboxylic acid (2-hydroxy-1-phenyl-ethyl)-amide | 0.29 mmol, 100 mg | OCC(C1=CC=CC=C1)NC(=O)C=1NC=C(C1)C(C(=CN(C)C)C)=O | C19H23N3O3
reactant | cyclopropyl guanidine•HCl | 80 mg | C1(CC1)NC(=N)N.Cl
reactant | potassium carbonate | 121 mg | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylacetamide | 2 mL | CN(C(C)=O)C | C4H9NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-(2-Cyclopropylamino-5-methyl-pyrimidin-4-yl)-1H-pyrrole-2-carboxylic acid (2-hydroxy-1-(S)-phenyl-ethyl)-amide | 7.8 mg | OC[C@H](C1=CC=CC=C1)NC(=O)C=1NC=C(C1)C1=NC(=NC=C1C)NC1CC1 | C21H23N5O2
